US08058456B2
Preparation of ethyl (R)-2,5-dioxo-3-(pyrrol-1-yl)pyrrolidine-3-carboxylate by an Alternative Method
(S)-(+)-Camphorsulfonic acid salt of ethyl (R)-3-amino-2,5-dioxopyrrolidine-3-carboxylate (2.25 g) was dissolved in 25% aqueous acetic acid (8 ml). Thereto were added NaHCO3 (0.5 g) and then 2,5-dimethoxytetrahydrofuran (0.74 g) and the mixture was stirred at 70° C. for 1.5 hours. After allowed to cooling, to this mixture were added water and ethyl acetate, and the ethyl acetate layer was separated. The ethyl acetate layer was washed with 30% brine twice, dried over magnesium sulfate and filtered. The filtrate was concentrated to give the desire product (1.2 g, 94%) as oil.

reactant | (S)-(+)-Camphorsulfonic acid | [C@]12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
reactant | ethyl (R)-3-amino-2,5-dioxopyrrolidine-3-carboxylate | 2.25 g | N[C@]1(C(NC(C1)=O)=O)C(=O)OCC | C7H10N2O4
reactant | NaHCO3 | 0.5 g | C(=O)(O)[O-].[Na+]
reactant | 2,5-dimethoxytetrahydrofuran | 0.74 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl (R)-2,5-dioxo-3-(pyrrol-1-yl)pyrrolidine-3-carboxylate | 1.2 g, 94% | O=C1NC(C[C@@]1(C(=O)OCC)N1C=CC=C1)=O | C11H12N2O4
